US05272163
N-[4-(Phenylcarbonyl)phenyl]-3-fluoro-2-hydroxy-2-methylpropanamide
A solution of 2-hydroxy-2-fluoromethylpropionic acid (0.93 g, 7.65 mmol) in dry dimethylacetamide (20 ml) was stirred under a nitrogen atmosphere at -10° C. Thionyl chloride (0.91 g, 7.65 mmol) was added and the resulting mixture was allowed to stir at -10° C. for 1 hour. 4-Phenylsulfonylaniline (1.0 g, 4.29 mmol) was then added and the reaction mixture was stirred at -10° C. for a further 15 mins. The solution was then allowed to warm to room temperature where it was stirred overnight. The reaction mixture was poured onto water, extracted with ethyl acetate, and the combined ethyl acetate portions were washed with water, and brine. After drying (Na2SO4) the ethyl acetate was removed by evaporation to give an straw-colored foam. Chromatography on silica gel, eluting with ethyl acetate/hexane (1:1) gave the tertiary carbinol (0.75 g, 48%) as a white powder; mp=146°-148° C. 1H--NMR (300 MHz, d6 --DMSO): 1.36 (s, 3H, CH3), 4.38 (dd, J=72 and 9.4 Hz, 1H, CH2F), 4.58 (dd, J=72 and 9.3 Hz, 1H, CH2F), 6.32 (s, 1H, OH), 7.56 (t, J=7.7 Hz, 2H, ArH), 7.65-7.76 (m, 5H, ArH), 7.97 (d, J=8.7 Hz, 2H, ArH), 10.08 (s, 1H, NH). MS (CI, CH4): 302(M+1, 100).

reactant | 2-hydroxy-2-fluoromethylpropionic acid | 7.65 mmol, 0.93 g | OC(C(=O)O)(C)CF | C4H7FO3
reactant | Thionyl chloride | 7.65 mmol, 0.91 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Phenylsulfonylaniline | 4.29 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | CH4 | C | CH4
reactant | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | N-[4-(Phenylcarbonyl)phenyl]-3-fluoro-2-hydroxy-2-methylpropanamide | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)NC(C(CF)(C)O)=O | C17H16FNO3
